US09255094B2
Preparation of 2,3,8-trimethyl-5-(2-(6-methylpyridin-3-yl)propyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (Compound No. 1-47)
A flask was charged with 2,3,8-trimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (117 mg, 0.5 mmol) and KOH (392 mg, 7 mmol) in NMP (2 mL) and heated at 140° C. for 10 min. The mixture was cooled to 0° C. and to it was added 2-methyl-5-(prop-1-en-2-yl)pyridine (199 mg, 1.5 mmol) dropwise. The mixture was heated at 140° C. for 2 h. The progress of the reaction was monitored by LCMS (5% conversion). The mixture was cooled to RT, water was added and the mixture filtered and evaporated. The solid obtained was purified by HPLC. 1HNMR (CD3OD, TFA salt) d (ppm): 8.10 (m, 2H), 7.60 (m, 1H), 7.22 (s, 1H), 7.10 (d, 1H), 6.96 (d, 1H), 4.62 (m, 1H), 4.38 (m, 2H), 4.22 (m, 2H), 3.50 (m, 2H), 3.0 (s, 3H), 2.80 (s, 3H), 2.40 (s, 3H), 1.60-1.30 (m, 7H).

reactant | 2,3,8-trimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.5 mmol, 117 mg | CN1CC2=C(NC=3C=CC(=CC23)C)CC1C | C14H18N2
reactant | KOH | 7 mmol, 392 mg | [OH-].[K+]
reactant | 2-methyl-5-(prop-1-en-2-yl)pyridine | 1.5 mmol, 199 mg | CC1=NC=C(C=C1)C(=C)C | C9H11N
reactant | water | O | H2O
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | 2,3,8-trimethyl-5-(2-(6-methylpyridin-3-yl)propyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(C)C=2C=NC(=CC2)C)CC1C | C23H29N3
